US04590201
To stirred, cooled concentrated sulfuric acid (40 ml) was added in portions 2,6-dichloro-4-methylbenzonitrile (13.2 g, 71.0 mmol). The mixture was heated on a steam bath for 3 hours with occasional shaking, cooled, poured into ice-water, and extracted twice with dichloromethane. The combined extracts were washed with brine, dried over anhydrous magnesium sulfate, and evaporated under vacuum. The residue was chromatographed on a column of silica gel (390 g) eluted with 4:1 (v/v) dichloromethane-diethyl ether to provide 8.6 g (59%) of 2,6-dichloro-4-methylbenzamide, m.p. 101°-107° C.

reactant | 2,6-dichloro-4-methylbenzonitrile | 71.0 mmol, 13.2 g | ClC1=C(C#N)C(=CC(=C1)C)Cl | C8H5Cl2N
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-dichloro-4-methylbenzamide | 8.6 g, 59% | ClC1=C(C(=O)N)C(=CC(=C1)C)Cl | C8H7Cl2NO
